US06015825
5-(2,5-Dimethylpyrrol-1-yl)-2-ethylpyridine
A mixture of 2-ethylpyridin-5-amine (3.2 g, 26 mmol), 2,5-hexanedione (3.0 g, 26 mmol) and acetic acid (1 ml) in toluene (50 ml) was heated under reflux for 24 hours. The solvent was removed under reduced pressure and the residue was partitioned between dichloromethane (50 ml) and water (20 ml). The aqueous phase was basified with aqueous sodium hydroxide (2M) and then extracted with dichloromethane (50 ml). The extract was dried (MgSO4) and evaporated under reduced pressure. The crude product was purified by column chromatography on silica by elution with dichloromethane/methanol (95:5) to give the title compound (2.38 g, 46%) as a colourless oil, which was characterised by 1H-N.M.R. spectroscopy.

reactant | 2-ethylpyridin-5-amine | 26 mmol, 3.2 g | C(C)C1=NC=C(C=C1)N | C7H10N2
reactant | 2,5-hexanedione | 26 mmol, 3.0 g | CC(CCC(C)=O)=O | C6H10O2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2,5-Dimethylpyrrol-1-yl)-2-ethylpyridine | 2.38 g, 46% | CC=1N(C(=CC1)C)C=1C=CC(=NC1)CC | C13H16N2
